US07727985B2
4-methyl-morpholine-3(S)-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide
A slurry of morpholine-3(S)-carboxylic acid (3.00 g, 22.9 mmol) in EtOH (115 ml) was stirred at RT. A solution of aqueous CH2O (3.42 ml, 45.8 mmol, 37% w/w in H2O) was added, followed by Pd(OH)2 (600 mg, 20% w/w on charcoal). The flask was charged with hydrogen (1 atm) and the grey slurry was stirred for 24 hr at RT under a balloon of hydrogen. The flask was purged with nitrogen and the black slurry was diluted with MeOH, filtered through filter paper and concentrated to a reduced volume. The pale grey solution was filtered through a 0.45 μm syringe filter to remove residual Pd(OH)2 and concentrated to yield a clear colorless oil. The oil was placed under high vacuum for 24 hr and a white, solid foam was isolated. The foam was dissolved in pyridine (200 ml) and 6-chloro-9H-β-carbolin-8-ylamine (3.74 g, 17.2 mmol) was added, followed by EDCI (5.87 g, 30.6 mmol). The clear pale orange solution was stirred at RT for 24 hr. The solution was diluted with H2O (300 ml) and poured into a separatory funnel containing EtOAc (300 ml). The mixture was shaken and the layers were separated. The aqueous layer was extracted with EtOAc (3×150 ml) and the combined organic layers were washed with H2O and brine. The organic layer was dried, filtered and concentrated to yield a brown oil which was placed under high vacuum. The resulting brown foam was triturated with MeOH and the precipitate which formed was filtered and washed with MeOH. The resulting pale yellow solid was purified via chiral HPLC to yield a white solid (3.23 g).

reactant | morpholine-3(S)-carboxylic acid | 22.9 mmol, 3.00 g | N1[C@@H](COCC1)C(=O)O | C5H9NO3
reactant | CH2O | 45.8 mmol, 3.42 ml | C=O | CH2O
reactant | hydrogen | [H][H] | H2
reactant | 6-chloro-9H-β-carbolin-8-ylamine | 17.2 mmol, 3.74 g | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)N | C11H8ClN3
reactant | EDCI | 30.6 mmol, 5.87 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | EtOH | 115 ml | CCO | C2H6O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | H2O | 300 ml | O | H2O
catalyst | Pd(OH)2 | 600 mg | [OH-].[OH-].[Pd+2]
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
product | 4-methyl-morpholine-3(S)-carboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | 3.23 g | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CCOC1)C | C17H17ClN4O2
